US06727264B1
N-(3-{1-[4-(PHENYLSULFANYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure G and Scheme B using [(4-chlorobutyl)sulfanyl]benzene and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 396.8 (M+H)+.

reactant | [(4-chlorobutyl)sulfanyl]benzene | ClCCCCSC1=CC=CC=C1 | C10H13ClS
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[4-(PHENYLSULFANYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | C1(=CC=CC=C1)SCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C24H32N2OS
